* Extracted by KLayout with GF180MCU LVS runset on : 02/09/2026 02:38

.SUBCKT ESD_CDM PAD CORE VDD VSS
D$1 VSS PAD diode_nd2ps_06v0 A=100P P=40U
D$2 VSS PAD diode_nd2ps_06v0 A=100P P=40U
D$3 VSS PAD diode_nd2ps_06v0 A=100P P=40U
D$4 VSS PAD diode_nd2ps_06v0 A=100P P=40U
D$5 PAD VDD diode_pd2nw_06v0 A=100P P=40U
D$6 PAD VDD diode_pd2nw_06v0 A=100P P=40U
D$7 PAD VDD diode_pd2nw_06v0 A=100P P=40U
D$8 PAD VDD diode_pd2nw_06v0 A=100P P=40U
R$9 PAD CORE VDD 87.5 ppolyf_u L=4U W=16U
.ENDS ESD_CDM
