* ESD_CDM: the secondary (CDM) ESD network.
* Written by openroad/scripts/esd_layout.py, together with the GDS it matches.
* The circuit is XSCHEM_v2/ESD_CDM.sch; see it for why the diodes are these two
* types and no others.
.subckt ESD_CDM PAD CORE VDD VSS
D1 VSS PAD diode_nd2ps_06v0 AREA=100p PJ=40u
D2 VSS PAD diode_nd2ps_06v0 AREA=100p PJ=40u
D3 VSS PAD diode_nd2ps_06v0 AREA=100p PJ=40u
D4 VSS PAD diode_nd2ps_06v0 AREA=100p PJ=40u
D5 PAD VDD diode_pd2nw_06v0 AREA=100p PJ=40u
D6 PAD VDD diode_pd2nw_06v0 AREA=100p PJ=40u
D7 PAD VDD diode_pd2nw_06v0 AREA=100p PJ=40u
D8 PAD VDD diode_pd2nw_06v0 AREA=100p PJ=40u
XR1 CORE PAD VDD ppolyf_u W=16.0e-06 L=4.0e-06 R=87.5
.ends
